* F:\DESCARGAS\Materias\2025\TC2\RepositorioGIT\TC2BancoTrabajo\Semanal_3\Bonus2.asc
* Generated by LTspice 24.1.8 for Windows.
X§X1 N005 N001 N003 0 OTA params: gm={gm1}
X§X2 N003 N001 N001 0 OTA params: gm={gm2}
X§U1 N002 N001 N002 opamp Aol=100K GBW=10Meg
C2 N001 0 {Q/w0}
C1 N003 0 {Q/w0}
C3 N004 0 {1/w0}
R1 N004 N002 {Ro}
V1 N005 0 AC 1

* block symbol definitions
.subckt OTA Vp Vm I+ I-
B1 I- I+ I={gm}*(V(Vp)-V(Vm))
R1 Vp Vm 100T
R2 I- I+ 100T
.ends OTA

.ac dec 10000 100m 10
.param Ro=1
.param w0=1.2526*2*pi
.param Q=1
.param gm1=1
.param gm2=gm1
.lib opamp.sub
.backanno
.end
