* F:\DESCARGAS\Materias\2025\TC2\RepositorioGIT\TC2BancoTrabajo\Semanal_4\Bonus2.asc
* Generated by LTspice 24.1.8 for Windows.
X§U1 N002 N004 N002 opamp Aol=100K GBW=10Meg
C1 N002 N001 10n
C2 0 N004 5.114n
R1 N001 N003 10k
R2 N004 N001 12121
V1 N003 0 AC 1 0
R3 N005 N002 8620.7
C3 N005 0 10n
.ac dec 100000 1 1Meg
.lib opamp.sub
.backanno
.end
